### PR TITLE
Add Erdős Problem 605 (repeated distances on the sphere), link the formal proof

### LINKED ISSUE #6234: Erdős Problem 605
### What is the Erdős problem?

https://www.erdosproblems.com/605

Is there some function $f(n)\to \infty$ as $n\to\infty$ such that there exist $n$ distinct points on the surface of a two-dimensional sphere with at least $f(n)n$ many pairs of points whose distances are the same?

Status: proved (Erdős–Hickerson–Pach, with $f(n) \gg \log^* n$; Swanepoel–Valtr improved this to $\gg \sqrt{\log n}$). A formal proof exists in plby/lean-proofs (`Erdos605.erdos_605`, Codex and GPT-5.6 Sol). Related to #90.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6234.

### What changed
Adds `FormalConjectures/ErdosProblems/605.lean` with:
- `erdos_605` (`research solved`, `answer(True)`): there is `f → ∞` such that for every `n` some `n` points on a sphere in `ℝ³` determine at least `f(n) n` pairs at a common distance (Erdős–Hickerson–Pach [EHP89]), stated with the existing `distanceMultiplicity`. Linked to plby/lean-proofs `Erdos605.erdos_605` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `u D n` (max number of unit distances among `n` points on the sphere of radius `D`) and the variants `sqrt_two` (`u_{√2}(n) ≍ n^{4/3}`), `log_star` (`u_D(n) ≫ n log* n`, using `Real.iteratedLog`), `swanepoel_valtr` (`≫ n √(log n)` [SwVa04]) and `upper_bound` (`≪ n^{4/3}`).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos605.erdos_605` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby counts a finset of non-diagonal `Sym2` pairs at the common distance; the bridge shows this is at most `distanceMultiplicity` of the image point set):

<details>
<summary>Bridge</summary>

```lean
open Filter Metric Finset

namespace Bridge605

local notation "ℝ³" => EuclideanSpace ℝ (Fin 3)

/-- Each non-diagonal `Sym2` pair at distance `d` contributes two ordered pairs to
`distanceMultiplicity`. -/
lemma card_le_distanceMultiplicity {n : ℕ} (x : Fin n → ℝ³) (hx : Function.Injective x)
    (d : ℝ) (E : Finset (Sym2 (Fin n)))
    (hE : ∀ e ∈ E, ¬ e.IsDiag ∧ Erdos605Plby.pairDistance x e = d) :
    E.card ≤ distanceMultiplicity (Finset.univ.image x) d := by
  classical
  set P := Finset.univ.image x with hP
  set T := P.offDiag.filter fun pair : ℝ³ × ℝ³ => dist pair.1 pair.2 = d with hT
  -- the two ordered pairs attached to an unordered pair
  let g : Sym2 (Fin n) → Finset (ℝ³ × ℝ³) := fun e =>
    {(x e.out.1, x e.out.2), (x e.out.2, x e.out.1)}
  have hout : ∀ e : Sym2 (Fin n), e = s(e.out.1, e.out.2) := fun e => by
    have := Quot.out_eq e
    conv_lhs => rw [← this]
  have hg_sub : ∀ e ∈ E, g e ⊆ T := by
    intro e he p hp
    obtain ⟨hdiag, hdist⟩ := hE e he
    have hne : e.out.1 ≠ e.out.2 := by
      intro h
      apply hdiag
      rw [hout e, h]
      exact Sym2.mk_isDiag_iff.2 rfl
    have hd : dist (x e.out.1) (x e.out.2) = d := by
      have h1 : Erdos605Plby.pairDistance x s(e.out.1, e.out.2) = dist (x e.out.1) (x e.out.2) :=
        rfl
      rw [← h1, ← hout e, hdist]
    simp only [g, Finset.mem_insert, Finset.mem_singleton] at hp
    rw [hT, Finset.mem_filter, Finset.mem_offDiag]
    rcases hp with rfl | rfl
    · exact ⟨⟨Finset.mem_image_of_mem x (Finset.mem_univ _),
        Finset.mem_image_of_mem x (Finset.mem_univ _), fun h => hne (hx h)⟩, hd⟩
    · exact ⟨⟨Finset.mem_image_of_mem x (Finset.mem_univ _),
        Finset.mem_image_of_mem x (Finset.mem_univ _), fun h => hne (hx h.symm)⟩,
        by rw [dist_comm]; exact hd⟩
  have hg_card : ∀ e ∈ E, (g e).card = 2 := by
    intro e he
    obtain ⟨hdiag, -⟩ := hE e he
    have hne : e.out.1 ≠ e.out.2 := by
      intro h
      apply hdiag
      rw [hout e, h]
      exact Sym2.mk_isDiag_iff.2 rfl
    rw [Finset.card_pair]
    intro h
    exact hne (hx (Prod.mk.inj h).1)
  have hg_disj : (E : Set (Sym2 (Fin n))).PairwiseDisjoint g := by
    intro e he e' he' hne
    rw [Function.onFun, Finset.disjoint_left]
    intro p hp hp'
    apply hne
    simp only [g, Finset.mem_insert, Finset.mem_singleton] at hp hp'
    rw [hout e, hout e']
    rcases hp with rfl | rfl <;> rcases hp' with h | h <;>
      obtain ⟨h1, h2⟩ := Prod.mk.inj h
    · rw [hx h1, hx h2]
    · rw [hx h1, hx h2, Sym2.eq_swap]
    · rw [hx h1, hx h2, Sym2.eq_swap]
    · rw [hx h1, hx h2]
  have h2 : 2 * E.card ≤ T.card := by
    calc 2 * E.card = ∑ e ∈ E, (g e).card := by
          rw [Finset.sum_congr rfl hg_card]; simp [mul_comm]
      _ = (E.biUnion g).card := (Finset.card_biUnion hg_disj).symm
      _ ≤ T.card := Finset.card_le_card (Finset.biUnion_subset.2 hg_sub)
  unfold distanceMultiplicity
  rw [Nat.le_div_iff_mul_le (by norm_num)]
  rw [mul_comm]
  exact h2

theorem erdos_605_bridge : type_of% Erdos605.erdos_605 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨f, hf, c, r, hr, h⟩ := Erdos605Plby.erdos_605
  refine ⟨f, hf, fun n => ?_⟩
  obtain ⟨x, d, E, hx, hsph, hd, hE, hcard⟩ := h n
  refine ⟨Finset.univ.image x, c, r, d, ?_, ?_, hd, ?_⟩
  · rw [Finset.card_image_of_injective _ hx]; simp
  · intro p hp
    obtain ⟨i, -, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hp)
    exact hsph i
  · calc f n * n ≤ E.card := hcard
      _ ≤ _ := by exact_mod_cast card_le_distanceMultiplicity x hx d E hE

end Bridge605
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«605»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/605.lean [hunk 1]
```diff
@@ -0,0 +1,95 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/605.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/605.lean [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+-/
+
+@[expose] public section
+
+open Filter Metric Asymptotics
+
+namespace Erdos605
+
+/-- The Euclidean space $\mathbb{R}^3$. -/
+local notation "ℝ³" => EuclideanSpace ℝ (Fin 3)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/605.lean:40]: let's just use the notation for this already provided in `FormalConjecturesForMathlib`
